US06143763
6-(3-Chloropropoxy)carbostyril (5 g) and 1-amino-2-propanol (24 ml) are dissolved in 2-propanol (100 ml), and the mixture is refluxed for 4 hours. After the reaction mixture is allowed to cool, the precipitated crystals are collected by filtration, washed with ethanol, and dried to give 6-[3-(2-hydroxypropyl)aminopropoxy]carbostyril (3.1 g) as a white powder.

reactant | 6-(3-Chloropropoxy)carbostyril | 5 g | ClCCCOC=1C=C2C=CC(NC2=CC1)=O | C12H12ClNO2
reactant | 1-amino-2-propanol | 24 ml | NCC(C)O | C3H9NO
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
product | 6-[3-(2-hydroxypropyl)aminopropoxy]carbostyril | 3.1 g | OC(CNCCCOC=1C=C2C=CC(NC2=CC1)=O)C | C15H20N2O3
